US04182759
[II; Ar is 2-Cl-4-CH3OC6H3, Y is O(CH2)4, R is C2H5, R' is CH3CO] was prepared from 0.79 g of lithium hydride, 19.4 g of diethyl acetonylphosphonate and 34.0 g of 4-(2-chloro-4-methoxyphenoxy)butyl iodide according to the procedure of Example 12(b). The product was chromatographed on Florisil to give 6.45 g of diethyl [1-acetyl-5-(2-chloro-4-methoxyphenoxy)pentyl]phosphonate as a yellow oil; MIC vs. herpes simplex type 2=12 mcg/ml. The NMR spectrum was consistent with the assigned structure.

reactant | lithium hydride | 0.79 g | [H-].[Li+]
reactant | diethyl acetonylphosphonate | 19.4 g | C(C(=O)C)P(OCC)(OCC)=O | C7H15O4P
reactant | 4-(2-chloro-4-methoxyphenoxy)butyl iodide | 34.0 g | ClC1=C(OCCCCI)C=CC(=C1)OC | C11H14ClIO2
product | diethyl [1-acetyl-5-(2-chloro-4-methoxyphenoxy)pentyl]phosphonate | 6.45 g | C(C)(=O)C(CCCCOC1=C(C=C(C=C1)OC)Cl)P(OCC)(OCC)=O | C18H28ClO6P
